US08491869B2
3-Chloroisoquinoline (33 mg, 0.2 mmol) and tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (66 mg, 0.2 mmol) were reacted using general procedure A to afford tert-butyl (4-(isoquinolin-3-yl)phenyl)(methyl)carbamate as a clear oil (12 mg, 18%). 1H NMR (400 MHz, CDCl3): δ 9.33 (s, 1H), 8.09 (m, 2H), 8.05 (s, 1H), 7.99 (m, 1H), 7.87 (m, 1H), 7.69 (m, 1H), 7.58 (m, 1H), 7.38 (m, 2H), 3.32 (s, 3H), 1.48 (s, 9H); MS (ESI): 335 (M+H+).

reactant | 3-Chloroisoquinoline | 0.2 mmol, 33 mg | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 0.2 mmol, 66 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
product | tert-butyl (4-(isoquinolin-3-yl)phenyl)(methyl)carbamate | 12 mg, 18% | C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)N(C(OC(C)(C)C)=O)C | C21H22N2O2
